US05935956
2-(4-Chlorophenyl)-2,4,4a,5,6,7-hexahydropyrido[4',3':6,7]cyclohepta[1,2-c]pyridazin-3-one
Prepared according to the method described in Example 1 from 9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridine-8-acetic acid (prepared by hydrolysis of the corresponding ketal, the latter being prepared from 5,6,7,8-tetrahydrocyclohepta[c]pyridine-9-one (Hicks et al, J. Chem. Soc. Perkin I (1984)2297) according to the method of Wu et al supra) and 4-chlorophenylhydrazine.

reactant | 9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridine-8-acetic acid | O=C1C(CCCC2=C1C=NC=C2)CC(=O)O | C12H13NO3
reactant | 5,6,7,8-tetrahydrocyclohepta[c]pyridine-9-one | C1=NC=CC2=C1C(CCCC2)=O | C10H11NO
reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 2-(4-Chlorophenyl)-2,4,4a,5,6,7-hexahydropyrido[4',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCCC1=C2C=NC=C1 | C18H16ClN3O
